US07696213B2
Trans-4-(2-amino-6-methylpyrimidin-4-ylamino)cyclohexanol
A mixture of 2-amino-4-chloro-6-methylpyrimidine (1.18 g, 8.24 mmol), trans-4-aminocyclohexanol (1.00 g, 6.60 mmol), potassium carbonate (1.82 g, 13.2 mmol), and diisopropylethyl amine (1.44 mL, 8.24 mmol) in dimethylacetamide (20.0 mL) was heated at 160° C. in a sealed tube overnight. The reaction mixture was diluted with ethyl acetate, filtered, and the filtrate was concentrated. The residue was purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0.5-5%) to afford the title compound as a foamy solid (1.47 g, 99%).

reactant | 2-amino-4-chloro-6-methylpyrimidine | 8.24 mmol, 1.18 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | trans-4-aminocyclohexanol | 6.60 mmol, 1.00 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | potassium carbonate | 13.2 mmol, 1.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethyl amine | 8.24 mmol, 1.44 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylacetamide | 20.0 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans-4-(2-amino-6-methylpyrimidin-4-ylamino)cyclohexanol | 1.47 g, 99% | NC1=NC(=CC(=N1)N[C@@H]1CC[C@H](CC1)O)C | C11H18N4O
